US08242145B2
Step 4: {3-[5-Bromo-2-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-phenoxy]-4-methoxy-phenyl}-acetic acid methyl ester
Prepared according to the procedure described in Example 6, Step 5, using the following starting materials: [3-(5-bromo-2-bromomethyl-phenoxy)-4-methoxy-phenyl]-acetic acid methyl ester and (4S,5R)-(−)-4-methyl-5-phenyl-2-oxazolidinone.

reactant | [3-(5-bromo-2-bromomethyl-phenoxy)-4-methoxy-phenyl]-acetic acid methyl ester | COC(CC1=CC(=C(C=C1)OC)OC1=C(C=CC(=C1)Br)CBr)=O | C17H16Br2O4
reactant | (4S,5R)-(−)-4-methyl-5-phenyl-2-oxazolidinone | C[C@@H]1NC(O[C@@H]1C1=CC=CC=C1)=O | C10H11NO2
product | {3-[5-Bromo-2-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-phenoxy]-4-methoxy-phenyl}-acetic acid methyl ester | COC(CC1=CC(=C(C=C1)OC)OC1=C(C=CC(=C1)Br)CN1C(O[C@@H]([C@@H]1C)C1=CC=CC=C1)=O)=O | C27H26BrNO6
